Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE Pain/swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a healthy ___ M presenting with 2 days of RLE
pain and swelling.

He states he went to be appx 2 days prior to presentation. 
Thinks he got bitten by a bug in his sleep.  The next day, he
woke up with pain, swelling, and erythema in his RLE.  (Of note,
___ clinic notes report RLE pain 1 week prior to presentation but
pt did not report this to me.)  RLE c/o were also associated 
with
fever and chills (up to 104 prior to presentation.)  Pt 
otherwise
denies any other localizing symptoms including SOB, CP, cough,
sore throat, dysuria, urinary frequency, abdominal pain,
diarrhea.  States he had similar systemic symptoms with prior
episode of cellulitis in the same extremity appx ___ years ago. 
He was initially seen in ___ for these complaints and found to be
febrile to 103 and tachycardic to the 130's.  Given systemic
symptoms, pt was sent to the ED for further evaluation.

On arrival to the ED,
VS: T: 101.4, HR: 128, BP: 133/74, RR: 18, O2: 99%RA
Exam notable for large area of surrounding erythema and warmth
over calf
Labs notable for leukocytosis to 21.2
CT RLE was obtained which showed soft tissue edema and was
otherwise negative for drainable fluid collection or subQ gas.
He wad given Tylenol, toraldol, Bactrim, cefazolin, clindamycin,
zoyn, and vancomycin.
Given persistent fevers an tachycardia, pt was admitted for
further w/u and management of his RLE cellulitis.

ROS: Full 10-point ROS reviewed and is negative except as noted

 
Past Medical History:
Prior cellulitis ___ years ago
 
Social History:
___
Family History:
No family history of recurrent cellulitis or unusual infections.
 
Physical Exam:
Admission Physical:
===================
VITALS: ___ 1227 Temp: 99.7 PO BP: 137/78 HR: 107 RR: 18 O2
sat: 96% O2 delivery: RA 
GENERAL: Obese, well-appearing, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, NT/ND, normoactive BS
GU: no foley
EXT: wwp, RLE swelling>LLE
SKIN: large area of erythema over posterior calf with small
punctate lesion on lateral surface c/w possible insect bite. 
Small areas of streaky erythema extending beyond demarcated 
line.
Warm to touch.  Mildly painful to palpation.
NEURO: AOx3, moving all extremities purposefully
PSYCH: pleasant, normal mood and affect

 
Pertinent Results:
Admission labs:
================
___ 08:59PM BLOOD WBC-21.2* RBC-4.23* Hgb-11.6* Hct-36.3* 
MCV-86 MCH-27.4 MCHC-32.0 RDW-12.4 RDWSD-38.6 Plt ___
___ 08:59PM BLOOD Neuts-89.1* Lymphs-4.9* Monos-4.9* 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-18.86* AbsLymp-1.04* 
AbsMono-1.04* AbsEos-0.06 AbsBaso-0.05
___ 08:59PM BLOOD Glucose-129* UreaN-9 Creat-0.9 Na-138 
K-4.3 Cl-101 HCO3-24 AnGap-13

Interval Labs: 
==============
___ 07:05AM BLOOD calTIBC-215* Hapto-390* Ferritn-536* 
TRF-165*
___ 07:05AM BLOOD Calcium-8.6 Phos-1.9* Mg-1.8 Iron-13*
___ 07:05AM BLOOD LD(LDH)-188 TotBili-0.6
___ 07:05AM BLOOD Ret Aut-1.8 Abs Ret-0.07

Micro: 
Blood cultures x2: NGTD

Imaging:
=========
CT RLE ___:  
Uncomplicated cellulitis of the right lower extremity. No 
evidence of focal
drainable fluid collection or subcutaneous gas.

RLE US ___: No evidence of deep venous thrombosis in the right 
lower extremity veins.

___ 06:55AM BLOOD WBC-10.6* RBC-4.04* Hgb-10.7* Hct-35.1* 
MCV-87 MCH-26.5 MCHC-30.5* RDW-12.2 RDWSD-39.2 Plt ___
___ 08:20AM BLOOD WBC-10.8* RBC-3.91* Hgb-10.3* Hct-33.9* 
MCV-87 MCH-26.3 MCHC-30.4* RDW-12.4 RDWSD-39.6 Plt ___
___ 06:45AM BLOOD ___ PTT-30.7 ___
___ 07:05AM BLOOD ___ PTT-30.8 ___
___ 08:20AM BLOOD Glucose-92 UreaN-8 Creat-0.6 Na-140 K-4.5 
Cl-103 HCO3-22 AnGap-15
___ 07:05AM BLOOD LD(LDH)-188 TotBili-0.6
___ 08:20AM BLOOD Phos-3.4 Mg-1.9
___:05AM BLOOD calTIBC-215* Hapto-390* Ferritn-536* 
TRF-165*

BCX: pending 
 
Brief Hospital Course:
___ M presenting with RLE swelling, pain and erythema c/w 
cellulitis w/ systemic symptoms.

# Sepsis ___ 
# RLE cellulitis
Pt presented with RLE cellulitis likely ___ bug bite as point of 
entry for bacteria. CT RLE without concerning findings or 
underlying abscess and ___ negative for DVT. However, he had 
evidence of sepsis with fever, tachycardia and leukocytosis 
warranting IV abx. He was initially treated cefazolin for 24 
hours with evidence of progression raising concern for possible 
MRSA infection. He was started on vancomycin ___ and symptoms 
overall improved but he continued to have fever and pain. 
Therefore, consulted ID who recommended changing cefazolin to 
unasyn and continuing IV vanco for 1 more day. Pt improved and 
Vanco dc'd ___. The ID team felt that pt most likely had a 
strep cellulitis. He continued to improve on unasyn and was 
converted to PO augmentin on ___ with plans to continue for 7 
more days of therapy to total about a 10 day day course. He will 
f/u with ID and PCP as an ___.  

#Normocytic anemia: Baseline unknown. work-up for anemia 
revealed evidence of anemia of chronic disease and poor marrow 
response which is likely secondary to acute illness. INR also 
elevated somewhat. Will need repeat CBC, coags after acute 
illness to ensure normalization. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
you may purchase over the counter, take as directed  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 
take with food. Take only as directed. You may purchase over the 
counter.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLE Cellulitis
Sepsis 
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with fevers and swelling in 
your leg and were found to have cellulitis. You were treated 
with IV antibiotics with improvement in your symptoms and your 
fevers. Your antibiotics were transitioned to oral antibiotics 
which you should continue to take for 7 more days.  Please try 
to keep your leg elevated as much as you can to help with pain 
and swelling. 

Please follow-up with your doctor as scheduled below to ensure 
that your infection has completely resolved. 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___